US08580968B2
A stirred mixture of 2,6-dichlorobenzo[d]thiazole (CAS #3622-23-9, 0.314 g, 3.00 mmol), (S)-pyrrolidin-3-ol (0.314 g, 3.60 mmol), and potassium carbonate (1.24 g, 9.00 mmol) in water/ethanol (10 mL/8 mL) was heated at 150° C. under microwave irradiation for 5 minutes. The reaction mixture was cooled to room temperature then partitioned between dichloromethane and saturated aqueous sodium carbonate. The organic layer was dried (MgSO4) and filtered. The filtrate was concentrated under reduced pressure to give a crude solid that was purified by crystallization from ethyl acetate/hexane. Crystals were collected by filtration, then dried under vacuum to provide (S)-1-(6-chlorobenzo[d]thiazol-2-yl)pyrrolidin-3-ol. 1H NMR (300 MHz, CD3OD) δ ppm 2.04-2.14 (m, 1H), 2.16-2.29 (m, 1H), 3.48-3.55 (m, 1H), 3.59-3.75 (m, 3H), 4.54-4.59 (m, 1H), 7.26 (dd, J=2, 8 Hz, 1H), 7.40 (d, J=8 Hz, 1H), 7.67 (d, J=2 Hz, 1H); MS (DCI/NH3) m/z 255 (M+H)+.

reactant | 2,6-dichlorobenzo[d]thiazole | 3.00 mmol, 0.314 g | ClC=1SC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NS
reactant | (S)-pyrrolidin-3-ol | 3.60 mmol, 0.314 g | N1C[C@H](CC1)O | C4H9NO
reactant | potassium carbonate | 9.00 mmol, 1.24 g | C([O-])([O-])=O.[K+].[K+]
solvent | water ethanol | 10 mL | O.C(C)O
product | (S)-1-(6-chlorobenzo[d]thiazol-2-yl)pyrrolidin-3-ol | ClC1=CC2=C(N=C(S2)N2C[C@H](CC2)O)C=C1 | C11H11ClN2OS
